US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (78.0 mg) was reacted with N-(4-bromophenyl)-N-((thiazol-4-yl)methyl)pyrimidin-2-amine (90.0 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yl-thiazol-4-ylmethyl-amino)phenyl]pent-4-enoic acid methyl ester (87.7 mg). Column chromatography (silica gel, eluent: chloroform→chloroform/ethyl acetate=3/1) and thin layer chromatography (cyclohexane/ethyl acetate=1/2) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 78.0 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-bromophenyl)-N-((thiazol-4-yl)methyl)pyrimidin-2-amine | 90.0 mg | BrC1=CC=C(C=C1)N(C1=NC=CC=N1)CC=1N=CSC1 | C14H11BrN4S
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yl-thiazol-4-ylmethyl-amino)phenyl]pent-4-enoic acid methyl ester | 87.7 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(CC=1N=CSC1)C1=NC=CC=N1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C27H23Cl2N5O3S
